US07449466B2
Production Example 30 was repeated except that 1-(4-benzyloxy-3-chlorophenyl)-4-(3-cyclohexylpropyl)piperazine was replaced with N,N-diethyl-4-(4-benzyloxy-3-fluorophenyl)-1-piperazinecarboxamide (365 mg). The resulting crude product was purified on TLC (developer, chloroform:methanol=12:1) to provide N,N-diethyl-4-(3-fluoro-4-hydroxyphenyl)-1-piperazinecarboxamide (160 mg).

reactant | 1-(4-benzyloxy-3-chlorophenyl)-4-(3-cyclohexylpropyl)piperazine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1CCN(CC1)CCCC1CCCCC1)Cl | C26H35ClN2O
reactant | N,N-diethyl-4-(4-benzyloxy-3-fluorophenyl)-1-piperazinecarboxamide | 365 mg | C(C)N(C(=O)N1CCN(CC1)C1=CC(=C(C=C1)OCC1=CC=CC=C1)F)CC | C22H28FN3O2
product | N,N-diethyl-4-(3-fluoro-4-hydroxyphenyl)-1-piperazinecarboxamide | 160 mg | C(C)N(C(=O)N1CCN(CC1)C1=CC(=C(C=C1)O)F)CC | C15H22FN3O2
